US09290472B2
A mixture of methyl 6-amino-3-bromo-2-hydroxybenzoate (prepared according to Wang et al, Bioorg Med Chem Lett, 2007, 17, 2817; 1.84 g), 2-formylfuran-3-boronic acid pinacol ester (1.99 g), tri-tert-butylphosphonium tetrafluoroborate (0.218 g), cesium carbonate (7.33 g) and tris-(dibenzylideneacetone)dipalladium (0.343 g) in dioxane (75 mL) and water (9.4 mL) was heated at 65° C., under nitrogen, for 1 hour. After cooling, the mixture was diluted with ethyl acetate and water and the organic layer was separated, dried (Na2SO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography on silica, eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 10-50% to give methyl 6-amino-3-(2-formylfuran-3-yl)-2-hydroxybenzoate (1.72 g) as a yellow solid. The material was used without further characterisation.

reactant | methyl 6-amino-3-bromo-2-hydroxybenzoate | 1.84 g | NC1=CC=C(C(=C1C(=O)OC)O)Br | C8H8BrNO3
reactant | 2-formylfuran-3-boronic acid pinacol ester | 1.99 g | C(=O)C=1OC=CC1B1OC(C)(C)C(C)(C)O1 | C11H15BO4
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.218 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | cesium carbonate | 7.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 9.4 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris-(dibenzylideneacetone)dipalladium | 0.343 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 6-amino-3-(2-formylfuran-3-yl)-2-hydroxybenzoate | 1.72 g | NC1=CC=C(C(=C1C(=O)OC)O)C1=C(OC=C1)C=O | C13H11NO5
